US06569851B1
Synthesis of 3-(N′-(Chloroacetyl)-L-alaninyl)amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one
A solution of 3-(L-alaninyl)amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one (20.0 mg, 0.0595 mmol), a-chloroacetyl chloride (5.9 μL, 0.0744 mmol) and piperidinylmethyl polystyrene (59.5 mg, 3.6 mmol/g (Fluka)) in 1 mL of methylene chloride were shaken for 20 min. Aminomethyl polystyrene (58 mg, 3.0 mmol/g (Advanced Chemtech)) was then added and the reaction mixture was shaken for an additional 15 min. and filtered. Removal of the solvent under reduced pressure provided 23.9 mg (98%) of the crude product which was used without further purification.

reactant | 3-(L-alaninyl)amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | 0.0595 mmol, 20.0 mg | N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C19H20N4O2
reactant | a-chloroacetyl chloride | 0.0744 mmol, 5.9 μL | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(N′-(Chloroacetyl)-L-alaninyl)amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | 23.9 mg, 98% | ClCC(=O)N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C21H21ClN4O3
